US07842696B2
10% Pd/C (60 mg) was added to a stirred solution of biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-nitro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide (120 mg, 2.4 mmol) in methanol (10 mL) and the mixture was stirred under an atmosphere of hydrogen with pressure overnight. The mixture was then filtered over celite and the filtrate concentrated to afford 46 mg (40.7%) of biphenyl-4-carboxylic acid {2-[4-(5-amino-2-bromo-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS: 95.6%, 1H NMR (CDCl3): δ 7.9 (m, 2H), 7.6 (m, 4H), 7.4 (m, 4H), 6.8 (m, 2H), 4.2 (m, 2H), 4.0 (m, 11H), 3.6 (m, 3H).

reactant | biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-nitro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 2.4 mmol, 120 mg | BrC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C(C=C1)[N+](=O)[O-] | C26H23BrN4O5
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | biphenyl-4-carboxylic acid {2-[4-(5-amino-2-bromo-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 46 mg, 40.7% | NC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C1)Br | C26H25BrN4O3
